US07169809B2
Step 1: (2Z)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-enyl N-(tert-butoxycarbonyl)glycinate
To a solution of 16.4 g of (2Z)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-(methyl-sulfonyl)phenyl]-3-phenylbut-2-en-1-ol, 1.92 g of DMAP and 7.30 g of Boc-Glycine in 125 mL of CH2Cl2 at 0° C. was added 8.0 g of EDCl. The reaction mixture was stirred for 4 h. Then saturated ammonium chloride solution was added and extracted with EtOAc. The organic layer was combined, washed with brine and dried over Na2SO4. The solvent was evaporated and the residue was purified by flash chromatography over silica gel (5–55% EtOAc/hexane) to afford 22 g of the titled compound as a colorless oil. 1H (500 MHz, acetone-d6): δ 7.67 (d, 2H), 7.34 (d, 2H), 7.13–7.04 (m, 5H), 6.26 (br s, NH), 5.23 (s, 2H), 4.76 (s, 2H), 3.73 (d, 2H), 3.02 (s, 3H), 1.40 (s, 9H), 0.81 (s, 9H), −0.01 (s, 6H).

reactant | (2Z)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-(methyl-sulfonyl)phenyl]-3-phenylbut-2-en-1-ol | 16.4 g | [Si](C)(C)(C(C)(C)C)OC\C(=C(/CO)\C1=CC=C(C=C1)S(=O)(=O)C)\C1=CC=CC=C1 | C23H32O4SSi
reactant | Boc-Glycine | 7.30 g | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | EDCl | 8.0 g | CCN=C=NCCCN(C)C.Cl
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | DMAP | 1.92 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 125 mL | C(Cl)Cl | CH2Cl2
product | (2Z)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-enyl N-(tert-butoxycarbonyl)glycinate | 22 g | C(C)(C)(C)OC(=O)NCC(=O)OC\C(=C(/CO[Si](C)(C)C(C)(C)C)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C | C30H43NO7SSi
